US06013673
1-benzyloxy-5-[2-(diphenylmethylcarbonylamino)ethyl]naphthalene
To a solution of diphenylacetic acid (0.171 g) in methylene chloride (10 ml), dimethylaminopyridine (0.01 g) and 1-benzyloxy-5-(2-aminoethyl)naphthalene (0.196 g) were added at room temperature. After 10 minutes, EDC·HCl (0.154 g) was added to the mixture solution. The mixture was stirred overnight at room temperature for 1 night. After termination of reaction, water and methylene chloride were added to the reaction mixture. The organic layer was washed with a saturated aqueous solution of ammonium chloride, water and a saturated aqueous solution of sodium chloride, dried over and concentrated under reduced pressure. The residue was purified on silica gel chromatography to give the title compound (0.172 g) having the following physical data.

reactant | diphenylacetic acid | 0.171 g | C1(=CC=CC=C1)C(C(=O)O)C1=CC=CC=C1 | C14H12O2
reactant | dimethylaminopyridine | 0.01 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 1-benzyloxy-5-(2-aminoethyl)naphthalene | 0.196 g | C(C1=CC=CC=C1)OC1=CC=CC2=C(C=CC=C12)CCN | C19H19NO
reactant | EDC·HCl | 0.154 g | CCN=C=NCCCN(C)C.Cl
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 1-benzyloxy-5-[2-(diphenylmethylcarbonylamino)ethyl]naphthalene | 0.172 g | C(C1=CC=CC=C1)OC1=CC=CC2=C(C=CC=C12)CCNC(=O)C(C1=CC=CC=C1)C1=CC=CC=C1 | C33H29NO2
